US09145380B2
4-(3-(5-Chloro-6-methoxypyridin-3-yl)phenylsulfonamido)pyridine-3-sulfonamide
A solution of N,N-diallyl-4-(3-(5-chloro-6-methoxypyridin-3-yl)phenylsulfonamido)pyridine-3-sulfonamide (0.19 g, 0.36 mmol) in dichloromethane (5 mL) was added to tetrakis(triphenylphosphine)palladium(0) (0.021 g, 0.022 mmol) and 1,3-dimethylbarbituric acid (0.336 g, 2.15 mmol) under an atmosphere of argon. The reaction was heated at 100° C. for 15 min in a microwave reactor and the reaction mixture was concentrated. Purification by column chromatography, using chloroform/methanol (95:5-9:1) as the eluent, gave the title compound in 49% yield.

reactant | N,N-diallyl-4-(3-(5-chloro-6-methoxypyridin-3-yl)phenylsulfonamido)pyridine-3-sulfonamide | 0.36 mmol, 0.19 g | C(C=C)N(S(=O)(=O)C=1C=NC=CC1NS(=O)(=O)C1=CC(=CC=C1)C=1C=NC(=C(C1)Cl)OC)CC=C | C23H23ClN4O5S2
reactant | 1,3-dimethylbarbituric acid | 2.15 mmol, 0.336 g | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.022 mmol, 0.021 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3-(5-Chloro-6-methoxypyridin-3-yl)phenylsulfonamido)pyridine-3-sulfonamide | 49% yield | ClC=1C=C(C=NC1OC)C=1C=C(C=CC1)S(=O)(=O)NC1=C(C=NC=C1)S(=O)(=O)N | C17H15ClN4O5S2
